US08492545B2
4-Methyl-N3-(4-pyridin-3-yl-thiazol-2-yl)-benzene-1,3-diamine
In a reactor, a mixture of (2-methyl-5-nitro-phenyl)-(4-pyridin-3-yl-thiazol-2-yl)-amine (40 kg, 128.06 mol), Raney Nickel (2.7 kg, 46.00 mol) and methanol (600 L), was warmed to 40-45° C. and hydrogenated under hydrogen pressure (5 kg/cm2) for 2 hours. The reaction mixture was filtered and concentrated. Water was added to the residue under stirring. The product was then filtered and dried in a tray drier at 45-50° C.

reactant | (2-methyl-5-nitro-phenyl)-(4-pyridin-3-yl-thiazol-2-yl)-amine | 128.06 mol, 40 kg | CC1=C(C=C(C=C1)[N+](=O)[O-])NC=1SC=C(N1)C=1C=NC=CC1 | C15H12N4O2S
reactant | hydrogen | [H][H] | H2
catalyst | Raney Nickel | 46.00 mol, 2.7 kg | [Ni] | Ni
solvent | methanol | 600 L | CO | CH4O
product | 4-Methyl-N3-(4-pyridin-3-yl-thiazol-2-yl)-benzene-1,3-diamine | CC1=C(C=C(C=C1)N)NC=1SC=C(N1)C=1C=NC=CC1 | C15H14N4S
